US07517899B2
(1S,2R)-1-(3-fluorophenyl)-1-(6-methoxy-1H-indol-1-yl)-3-(methyl-amino)propan-2-ol hydrochloride
In an analogous manner to EXAMPLE 5, (1S,2R)-1-(3-fluorophenyl)-1-(6-methoxy-1H-indol-1-yl)-3-(methylamino)-1-phenylpropan-2-ol hydrochloride was prepared from (2S,3S)-toluene-4-sulfonic acid 3-(6-methoxy-indol-1-yl)-2-hydroxy-3-(3-fluorophenyl)-propyl ester and methylamine as a white solid. MS (ES) m/z 329.2; HRMS: calcd for C19H21FN2O2+H+, 329.16598; found (ESI, [M+H]+), 329.1663.

reactant | (1S,2R)-1-(3-fluorophenyl)-1-(6-methoxy-1H-indol-1-yl)-3-(methylamino)-1-phenylpropan-2-ol hydrochloride | Cl.FC=1C=C(C=CC1)[C@]([C@@H](CNC)O)(C1=CC=CC=C1)N1C=CC2=CC=C(C=C12)OC
reactant | (2S,3S)-toluene-4-sulfonic acid 3-(6-methoxy-indol-1-yl)-2-hydroxy-3-(3-fluorophenyl)-propyl ester | COC1=CC=C2C=CN(C2=C1)[C@H]([C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)O)C1=CC(=CC=C1)F | C25H24FNO5S
reactant | methylamine | CN | CH5N
product | (1S,2R)-1-(3-fluorophenyl)-1-(6-methoxy-1H-indol-1-yl)-3-(methyl-amino)propan-2-ol hydrochloride | Cl.FC=1C=C(C=CC1)[C@@H]([C@@H](CNC)O)N1C=CC2=CC=C(C=C12)OC | InChI=1S/C19H21FN2O2.ClH/c1-21-12-18(23)19(14-4-3-5-15(20)10-14)22-9-8-13-6-7-16(24-2)11-17(13)22;/h3-11,18-19,21,23H,12H2,1-2H3;1H/t18-,19+;/m1./s1
